US09120819B2
Stage F: Benzyl 5-[(1-{[3-(2-aminoethoxy)benzoyl]-amino}-2-methylindolizin-3-yl)carbonyl]-2-[(trifluoroacetyl)amino]benzoate
16 ml (0.20 mol) of trifluoroacetic acid are added to the suspension of 6.28 g (8.28 mmol) of benzyl 5-({1-[(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}benzoyl)-amino]-2-methylindolizin-3-yl}carbonyl)-2-[(trifluoroacetyl)amino]benzoate in 40 ml of dichloromethane. After stirring at ambient temperature for 30 minutes, the reaction medium is poured into 1 l of a saturated aqueous solution of sodium bicarbonate. The precipitate is filtered, washed thoroughly with water and then with diisopropyl ether and dried, so as to obtain 4.5 g (82%) of a yellow powder.

reactant | trifluoroacetic acid | 0.20 mol, 16 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 5-({1-[(3-{2-[(tert-butoxycarbonyl)amino]ethoxy}benzoyl)-amino]-2-methylindolizin-3-yl}carbonyl)-2-[(trifluoroacetyl)amino]benzoate | 8.28 mmol, 6.28 g | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OCC3=CC=CC=C3)C2)NC(C(F)(F)F)=O)C)C=CC1 | C40H37F3N4O8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Benzyl 5-[(1-{[3-(2-aminoethoxy)benzoyl]-amino}-2-methylindolizin-3-yl)carbonyl]-2-[(trifluoroacetyl)amino]benzoate | 4.5 g, 82% | NCCOC=1C=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OCC3=CC=CC=C3)C2)NC(C(F)(F)F)=O)C)C=CC1 | C35H29F3N4O6
